US05051422
N-[[4-(3-Bromo-5-methoxyphenyl)-1-[(3,4-dimethoxyphenyl)methyl]piperazin-2-yl]-methyl]-4-(1H-imidazol-1-yl)benzenesulfonamide
In a manner similar to Preparation 3, react 4-(3-bromo-5-methoxyphenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinemethanamine with 4-(1H-imidazol-1-yl)benzenesulfonyl chloride to obtain the title compound.

reactant | 4-(3-bromo-5-methoxyphenyl)-1-[(3,4-dimethoxyphenyl)methyl]-2-piperazinemethanamine | BrC=1C=C(C=C(C1)OC)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CN | C21H28BrN3O3
reactant | 4-(1H-imidazol-1-yl)benzenesulfonyl chloride | N1(C=NC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H7ClN2O2S
product | N-[[4-(3-Bromo-5-methoxyphenyl)-1-[(3,4-dimethoxyphenyl)methyl]piperazin-2-yl]-methyl]-4-(1H-imidazol-1-yl)benzenesulfonamide | BrC=1C=C(C=C(C1)OC)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CNS(=O)(=O)C1=CC=C(C=C1)N1C=NC=C1 | C30H34BrN5O5S
